US05840732
ii) Synthesis of 5-(3-phenylpropylidene)-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]oxazolidine-2,4-dione hydrochloride
To a methanol solution of 15 mg (0.037 mmol) of 5-(3-phenylpropylidene)-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)-butyl]oxazolidine-2,4-dione, 10 ml of 4N hydrochloric acid-ethyl acetate was added, followed by stirring, after which the solvent was distilled off, to yield 16 mg (97.8%, yellow oily substance) of the desired product.

reactant | 5-(3-phenylpropylidene)-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)-butyl]oxazolidine-2,4-dione | 0.037 mmol, 15 mg | C1(=CC=CC=C1)CCC=C1C(N(C(O1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | C23H23N3O4
reactant | hydrochloric acid ethyl acetate | 4N, 10 ml | Cl.C(C)(=O)OCC
solvent | methanol | CO | CH4O
product | 5-(3-phenylpropylidene)-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]oxazolidine-2,4-dione hydrochloride | Cl.C1(=CC=CC=C1)CCC=C1C(N(C(O1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | InChI=1S/C23H23N3O4.ClH/c27-22-20(11-6-10-18-8-2-1-3-9-18)30-23(28)26(22)15-4-5-17-29-19-12-7-14-25-16-13-24-21(19)25;/h1-3,7-9,11-14,16H,4-6,10,15,17H2;1H
